US06677352B1
2-Anilino-N-methoxy-N,7-dimethyl-4-oxo-1-phenyl-1,4-dihydro-1,6-naphthyridine-5-carboxamide (60 mg, 0.14 mmol) was suspended in THF (5 mL). To this stirring suspension at 0° C. was added MeMgBr (0.19 mL, 0.56 mmol, 3M in Et2O). The reaction was stirred at room temperature for 6 h and quenched with saturated aqueous NH4Cl, diluted with EtOAc, and washed with brine. The organic layer was collected, dried over Na2SO4, and concentrated in vacuo. The residue was purified by Biotage silica gel chromatography using EtOAc as the eluent to provide 5-acetyl-2-anilino-7-methyl-1-phenyl-1,6-naphthyridin-4(1H)-one as a light yellow solid (34 mg, 66%): LCMS RT: 2.20 min, MH+: 370.4.

reactant | 2-Anilino-N-methoxy-N,7-dimethyl-4-oxo-1-phenyl-1,4-dihydro-1,6-naphthyridine-5-carboxamide | 0.14 mmol, 60 mg | N(C1=CC=CC=C1)C=1N(C=2C=C(N=C(C2C(C1)=O)C(=O)N(C)OC)C)C1=CC=CC=C1 | C24H22N4O3
reactant | MeMgBr | 0.56 mmol, 3M, 0.19 mL | C[Mg+].[Br-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-acetyl-2-anilino-7-methyl-1-phenyl-1,6-naphthyridin-4(1H)-one | 34 mg, 66% | C(C)(=O)C1=C2C(C=C(N(C2=CC(=N1)C)C1=CC=CC=C1)NC1=CC=CC=C1)=O | C23H19N3O2
